US03989708
Heating a solution of 17.5 g of 4-methoxybenzylideneacetone and 13.0 g of amidinoacetic acid ethyl ester in 150 ml of ethanol for 2 hours yields 2-amino-6-methyl-4-(4-methoxyphenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester of melting point 160°-161°C (ethanol). Yield: 52 percent theory.

reactant | 4-methoxybenzylideneacetone | 17.5 g | COC1=CC=C(C=CC(C)=O)C=C1 | C11H12O2
reactant | amidinoacetic acid ethyl ester | 13.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-(4-methoxyphenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester | Yield: 52 percent | C(C)OC(=O)C1=C(NC(=CC1C1=CC=C(C=C1)OC)C)N | C16H20N2O3
